US06924278B2
Potassium carbonate (158 mg) and 2-bromoethanol (0.045 ml) were added to a solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-pyrazolylmethyl)piperazine (300 mg) in N,N-dimethylformamide (3 ml) at room temperature with stirring. After stirring at 100° C. for 5 hours, the reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure. The obtained residue was purified by column chromatography (30 ml) on silica gel using a mixture of ethyl acetate and hexane (3:7) to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]methyl]piperazine (255.2 mg).

reactant | Potassium carbonate | 158 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 0.045 ml | BrCCO | C2H5BrO
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(4-pyrazolylmethyl)piperazine | 300 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NNC2)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C26H26F6N4O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[[1-(2-hydroxyethyl)-1H-pyrazol-4-yl]methyl]piperazine | 255.2 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC=2C=NN(C2)CCO)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C28H30F6N4O2
